US06320051B1
2-Chloro-4-ethoxyquinoline (1.119 g, 5.39 mmol) and ethylenediamine (10.8 ml, 162 mmol) were heated at 60° C. for 50 h, then evaporated to dryness. The residue was purified by flash chromotography on silica gel, eluting with 0-14% ‘10% ammonia in methanol’ in dichloromethane, to give 2-(2-aminoethylamino)-4-ethoxyquinoline (0.830 g, 67%). This material (0.820 g, 3.54 mmol) was dissolved in concentrated hydrochloric acid (25 ml) and gently refluxed for 16 h. The mixture was then cooled in an ice bath, and the precipitate filtered off and dried in vacuo to give the title compound as an off-white powder (0.861 g, 88%); δH (CD3OD) 3.2-3.35(2H, m, under methanol), 3.84 (2H, t), 6.35 (1H, s), 7.46 (1H, t), 7.7-7.9 (2H, m), 8.1 (1H, d), MS (ES+) 204 (50%, MH+) and 187 (100).

reactant | 2-Chloro-4-ethoxyquinoline | 5.39 mmol, 1.119 g | ClC1=NC2=CC=CC=C2C(=C1)OCC | C11H10ClNO
reactant | ethylenediamine | 162 mmol, 10.8 ml | C(CN)N | C2H8N2
product | 2-(2-aminoethylamino)-4-ethoxyquinoline | 0.830 g, 67% | NCCNC1=NC2=CC=CC=C2C(=C1)OCC | C13H17N3O
